US05691384
Combine 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-phenyl ethanol (1.0 g, 21.0 mmol) and methanol (2 mL). Add aqueous 2M hydrochloric acid solution (4 mL). Heat to reflux. After 2 hours, concentrate at 65° C. to remove most of the methanol. Cool to ambient temperature and extract with dichloromethane. Dry the organic layer over MgSO4, filter, and dry in vacuo to give 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy)phenyl)-2-phenyl ethylene: Rf =0.50 (silica gel, 30% ethyl acetate/hexane).

reactant | 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy) phenyl)-2-phenyl ethanol | 21.0 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=CC=C1)(O)C1=CC=C(C=C1)OCCCCCl | C31H31ClO3
reactant | hydrochloric acid | 2M, 4 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 1-(4-benzyloxyphenyl)-1-(4-(4-chlorobutyloxy)phenyl)-2-phenyl ethylene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=CC1=CC=CC=C1)C1=CC=C(C=C1)OCCCCCl | C31H29ClO2
